US07906645B2
N-(3,4-Dichlorophenyl)-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide
tert-Butyl (3S)-3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]piperidine-1-carboxylate (1 g), trifluoroacetic acid (10 ml) and dichloromethane (20 ml) were stirred at room temperature for one hour. The solvent was removed in vacuo to yield a dark brown oil. Water (20 ml) was added to this giving a milky solution and this was then basified to ˜pH 6 by addition of solid NaHCO3. This left a milky solution which was diluted with water (˜50 ml) before extracting with ethyl acetate (3×75 ml). The combined organics were washed with brine (˜100 ml) and separated then dried (MgSO4) before removing solvent in vacuo to yield the title compound (531 mg).

reactant | tert-Butyl (3S)-3-[(4-{[(3,4-dichlorophenyl)amino]carbonyl}piperazin-1-yl)methyl]piperidine-1-carboxylate | 1 g | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H32Cl2N4O3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | ˜50 ml | O | H2O
solvent | Water | 20 ml | O | H2O
product | N-(3,4-Dichlorophenyl)-4-[(3R)-piperidin-3-ylmethyl]piperazine-1-carboxamide | 531 mg | ClC=1C=C(C=CC1Cl)NC(=O)N1CCN(CC1)C[C@H]1CNCCC1 | C17H24Cl2N4O
